US05599832
Preparation of N-Methyl-2-(trifluoromethyl)indole
A mixture of 1-methyl-2-iodoindole (4.40 g, 17.3 mmole), sodium trifluoroacetate (24.0 g, 176.5 mmole) and copper(I) iodide (17.1 g, 89.8 mmole) in N-methylpyrrolidone is heated at 160° C. for 6 hours, cooled to room temperature, diluted with water and filtered through diatomaceous earth to remove copper salts. The filtrate is extracted with ether. The extracts are combined, washed with water, dried over MgSO4 and concentrated in vacuo to give a residue. The residue is chromatographed using silica gel and 4:1 hexanes:ethyl acetate as eluent to give the title product as a pale yellow oil which crystallized on standing, 119 g (37% yield), mp 28°-32° C., identified by IR, 1HNMR and 19FNMR analyses.

reactant | 1-methyl-2-iodoindole | 17.3 mmole, 4.40 g | CN1C(=CC2=CC=CC=C12)I | C9H8IN
reactant | sodium trifluoroacetate | 176.5 mmole, 24.0 g | FC(C(=O)[O-])(F)F.[Na+]
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
catalyst | copper(I) iodide | 89.8 mmole, 17.1 g | [Cu]I
product | N-Methyl-2-(trifluoromethyl)indole | 37% yield | CN1C(=CC2=CC=CC=C12)C(F)(F)F | C10H8F3N
